US08461158B2
A solution of 107 mg (0.24 mmol) of 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole in a mixture of 20 mL of THF and 20 mL of pyridine was cooled to 0° C. and 41 mg (0.36 mmol) of methanesulfonyl chloride was added. The mixture was allowed to warm to room temperature, and after 1 hr, water was added. The precipitate was collected, washed with water, and dried to give 95 mg (75% yield) of 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole: mp (MeOH) 311-314° C.; 1H NMR (CDCl3) δ 7.86 (dd, J=8.4, 0.6 Hz, 1H), 7.43 (t, JHF=53.5 Hz, 1H), 7.36 (t, J=8.2 Hz, 1H), 6.82 (d, J=7.8 Hz, 1H), 4.05 (s, 3H), 4.03 (m, 4H), 3.89 (m, 4H), 3.79 (m, 4H), 3.33 (m, 4H), 2.81 (s, 3H); Anal. Calcd. for C21H26F2N8O4S: C, 48.1; H, 5.0; N, 21.4. Found: C, 48.0; H, 4.9; N, 21.2%.

reactant | 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | 0.24 mmol, 107 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCNCC1)C=CC=C2OC)F | C20H24F2N8O2
reactant | methanesulfonyl chloride | 0.36 mmol, 41 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | 95 mg, 75% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=CC=C2OC)F | C21H26F2N8O4S
